US04441913
22.1 g of 2-(2,6-dichlorobenzyloxy)ethanol and 10.1 g of triethylamine were dissolved in 200 ml of toluene, then cooled to 0° C. To this solution was dropwise added a solution of 34.5 g of 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionyl chloride in 50 ml of toluene at 0° to 10° C. After the dropwise addition, the reaction mixture was gradually heated and, at 40° C., it was stirred for one hour to complete the reaction. After cooling the reaction solution to room temperature, it was washed successively with 1% strength by weight sodium hydroxide aqueous solution and water, then dehydrated. After distilling off toluene under reduced pressure, the resulting colorless, viscous, oily product was allowed to stand for about 1 month to obtain 49.2 g of crystalline 2-(2,6-dichlorobenzyloxy)ethyl 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionate. m.p. 51° to 53° C.

reactant | 2-(2,6-dichlorobenzyloxy)ethanol | 22.1 g | ClC1=C(COCCO)C(=CC=C1)Cl | C9H10Cl2O2
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionyl chloride | 34.5 g | FC(C1=CC=C(OC2=CC=C(OC(C(=O)Cl)C)C=C2)C=C1)(F)F | C16H12ClF3O3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,6-dichlorobenzyloxy)ethyl 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionate | 49.2 g | FC(C1=CC=C(OC2=CC=C(OC(C(=O)OCCOCC3=C(C=CC=C3Cl)Cl)C)C=C2)C=C1)(F)F | C25H21Cl2F3O5
